data/polar.json
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:2]([CH:10]1[N+:17](=[CH:6][CH:33]=[CH:11][c:25]2[cH:7][cH:19][cH:5][cH:20][cH:8]2)[CH:14]([CH2:34][c:30]2[cH:36][cH:12][cH:21][cH:13][cH:37]2)[C:24](=[O:9])[N:31]1[CH3:23])([CH3:27])([CH3:28])[CH3:29].[CH2:1]1[CH2:16][CH2:4][NH:32][C:15]2=[N:35][CH2:3][CH2:18][CH2:26][N:22]12>>[CH2:1]1[CH2:16][CH2:4][NH:32][C:15]2=[N+:22]1[CH2:26][CH2:18][CH2:3][N:35]2[CH:11]([c:25]1[cH:7][cH:19][cH:5][cH:20][cH:8]1)[CH:33]=[CH:6][N:17]1[CH:10]([C:2]([CH3:27])([CH3:28])[CH3:29])[N:31]([CH3:23])[C:24](=[O:9])[CH:14]1[CH2:34][c:30]1[cH:36][cH:12][cH:21][cH:13][cH:37]1", "epd": [["LP-/Pi+", [22], [15, 22]], ["Pi-/Sigma+", [35, 15], [35, 11]], ["Pi-/Pi+", [11, 33], [33, 6]], ["Pi-/LP+", [6, 17], [17]]]}
{"reaction_name": "Rearomatizing elimination sequence", "rsmi": "[Br:1][C:2]1=[CH:3][CH:4]=[C:5]([O:6][H:10])[CH:7]([H:26])[C:8]([H:14])([O:9][H:11])1.[O-:12][H:13]>>[Br:1][c:2]1[cH:3][cH:4][c:5]([O:6][H:10])[cH:7][c:8]([H:14])1.[O:12]([H:13])[H:26].[O-:9][H:11]", "epd": [["LP-/Sigma+", [12], [12, 26]], ["Sigma-/Pi+", [7, 26], [7, 8]], ["Sigma-/LP+", [8, 9], [9]]]}
{"reaction_name": "Selectfluor fluorination", "rsmi": "[CH2:1]([N+:4]12[CH2:12][CH2:18][N+:9]([F:3])([CH2:19][CH2:13]1)[CH2:20][CH2:14]2)[Cl:21].[cH:2]1[cH:8][cH:6][c:16]2[c:5]([cH:22]1)[CH:23]([Zn-:15]([Cl:10])[Cl:11])[CH:17]=[CH:7]2>>[CH2:1]([N+:4]12[CH2:12][CH2:18][N:9]([CH2:19][CH2:13]1)[CH2:20][CH2:14]2)[Cl:21].[Cl:10][Zn:15][Cl:11].[cH:2]1[cH:8][cH:6][c:16]2[c:5]([cH:22]1)[CH:23]([F:3])[CH:17]=[CH:7]2", "epd": [["Sigma-/Sigma+", [23, 15], [23, 3]], ["Sigma-/LP+", [3, 9], [9]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:14]1([Cl:33])=[C:15]([Cl:34])[C:18](=[O:22])[C:30]([C:36]#[N:38])=[C:31]([C:37]#[N:39])[C:17]1=[O:21].[c:1]1([P:16]([c:2]2[cH:9][cH:26][cH:5][cH:27][cH:10]2)([c:3]2[cH:11][cH:28][cH:6][cH:29][cH:12]2)=[CH:32][C:23]([O:19][CH2:13][CH3:35])=[O:20])[cH:7][cH:24][cH:4][cH:25][cH:8]1>>[c:1]1([P+:16]([c:2]2[cH:9][cH:26][cH:5][cH:27][cH:10]2)([c:3]2[cH:11][cH:28][cH:6][cH:29][cH:12]2)[CH:32]([C:23]([O:19][CH2:13][CH3:35])=[O:20])[C:30]2([C:36]#[N:38])[C:18](=[O:22])[C:15]([Cl:34])=[C:14]([Cl:33])[C:17]([O-:21])=[C:31]2[C:37]#[N:39])[cH:7][cH:24][cH:4][cH:25][cH:8]1", "epd": [["Pi-/Sigma+", [32, 16], [32, 30]], ["Pi-/Pi+", [30, 31], [31, 17]], ["Pi-/LP+", [17, 21], [21]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[O:2]=[S:6](=[O:3])([N:12]=[C:11]=[O:14])[c:19]1[cH:8][cH:4][c:18]([CH3:20])[cH:5][cH:9]1.[S:1]([c:7]1[cH:21][cH:15][cH:13][cH:16][cH:22]1)([O-:10])=[O:17]>>[S+:1]([c:7]1[cH:21][cH:15][cH:13][cH:16][cH:22]1)([O-:10])([C:11]([N-:12][S:6](=[O:2])(=[O:3])[c:19]1[cH:8][cH:4][c:18]([CH3:20])[cH:5][cH:9]1)=[O:14])=[O:17]", "epd": [["LP-/Sigma+", [1], [1, 11]], ["Pi-/LP+", [11, 12], [12]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:1]1([Cl:37])=[C:2]([Cl:38])[C:7](=[O:9])[C:32]([C:39]#[N:41])=[C:33]([C:40]#[N:42])[C:6]1=[O:8].[c:3]1([P:31]([c:4]2[cH:14][cH:20][c:35]([N:11]([CH3:27])[CH3:28])[cH:21][cH:15]2)[c:5]2[cH:16][cH:22][c:36]([N:12]([CH3:29])[CH3:30])[cH:23][cH:17]2)[cH:13][cH:19][c:34]([N:10]([CH3:25])[CH3:26])[cH:24][cH:18]1>>[C:1]1([Cl:37])=[C:2]([Cl:38])[C:7](=[O:9])[C:32]([P+:31]([c:3]2[cH:13][cH:19][c:34]([N:10]([CH3:25])[CH3:26])[cH:24][cH:18]2)([c:4]2[cH:14][cH:20][c:35]([N:11]([CH3:27])[CH3:28])[cH:21][cH:15]2)[c:5]2[cH:16][cH:22][c:36]([N:12]([CH3:29])[CH3:30])[cH:23][cH:17]2)([C:39]#[N:41])[C:33]([C:40]#[N:42])=[C:6]1[O-:8]", "epd": [["LP-/Sigma+", [31], [31, 32]], ["Pi-/Pi+", [32, 33], [33, 6]], ["Pi-/LP+", [6, 8], [8]]]}
{"reaction_name": "Aromatic iodination", "rsmi": "[I:1][I:2].[c:3]1([H:9])[cH:4][cH:5][cH:6][cH:7][cH:8]1>>[I:1][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1.[I:2][H:9]", "epd": [["LP-/Sigma+", [1], [1, 3]], ["Sigma-/LP+", [1, 2], [1]], ["Sigma-/Sigma+", [3, 9], [2, 9]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[O-:1][C:26](=[CH:20][c:5]1[cH:13][cH:24][n:6][cH:25][cH:14]1)[O:27][CH2:29][CH3:10].[cH:2]1[cH:3][cH:16][cH:7][c:8]2[c:4]1[N+:21]([CH3:11])=[CH:15][C:12]2=[CH:9][c:19]1[cH:17][cH:22][cH:28][cH:23][cH:18]1>>[O:1]=[C:26]([CH:20]([c:5]1[cH:13][cH:24][n:6][cH:25][cH:14]1)[CH:9]([c:12]1[c:8]2[c:4]([cH:2][cH:3][cH:16][cH:7]2)[n:21]([CH3:11])[cH:15]1)[c:19]1[cH:17][cH:22][cH:28][cH:23][cH:18]1)[O:27][CH2:29][CH3:10]", "epd": [["LP-/Pi+", [1], [26, 1]], ["Pi-/Sigma+", [20, 26], [20, 9]], ["Pi-/Pi+", [9, 12], [12, 15]], ["Pi-/LP+", [15, 21], [21]]]}
{"reaction_name": "Aldoxime dehydration to nitrile", "rsmi": "[cH:1]1[c:4]([C:8](=[N:9][OH:3])[H:10])[cH:2][cH:7][cH:5][cH:6]1>>[OH:3][H:10].[cH:1]1[c:4]([C:8]#[N:9])[cH:2][cH:7][cH:5][cH:6]1", "epd": [["LP-/Sigma+", [3], [3, 10]], ["Sigma-/LP+", [8, 10], [8]], ["LP-/Pi+", [8], [8, 9]], ["Sigma-/LP+", [3, 9], [3]]]}
